US04190431
Allyl isocyanate (5.8 g.) was added dropwise at 0° to 5° C. to a stirred solution of N-(4-chlorophenyl)-hydroxylamine (10 g.) dissolved in benzene (50 ml.). The reaction mixture was stirred for 1/2 hour at 15°-20° C., then cooled to 10° C. and the precipitated solid filtered. The solid was washed with hexane and dried to yield 1-allyl-3-(4'-chlorophenyl)-3-hydroxyurea as white crystals melting 117°-118° C.

reactant | Allyl isocyanate | 5.8 g | C(C=C)N=C=O | C4H5NO
reactant | N-(4-chlorophenyl)-hydroxylamine | 10 g | ClC1=CC=C(C=C1)NO | C6H6ClNO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-allyl-3-(4'-chlorophenyl)-3-hydroxyurea | C(C=C)NC(=O)N(O)C1=CC=C(C=C1)Cl | C10H11ClN2O2
